US06239126B1
In a round bottom flask at room temperature was placed with 1.95 g (6.18 mmole) 1-benzyl-4-(5-fluoro-2-methoxy-phenyl)-4-hydroxypiperidine, (Intermediate 7) dry MeOH (40 mL), and the system purged with N2 for 5 min. To the solution, 1.95 g of 10% palladium on carbon was added. The system was again purged with N2 for 5 minutes followed by addition of 2 mL formic acid (88%). The resulting mixture was stirred at room temperature under N2 for one day. At this point, a further 2 mL of formic acid (88%) was added. The reaction was continued for 2.5 days. The mixture was filtered through celite, and concentrated to afford of 4-(5-fluoro-2-methoxy-phenyl)-4-hydroxypiperidine (0.95 g 69% yield) as a yellow oil.

reactant | 1-benzyl-4-(5-fluoro-2-methoxy-phenyl)-4-hydroxypiperidine | 6.18 mmole, 1.95 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)OC | C19H22FNO2
solvent | MeOH | CO | CH4O
solvent | MeOH | 40 mL | CO | CH4O
product | 4-(5-fluoro-2-methoxy-phenyl)-4-hydroxypiperidine | 0.95 g, 69% yield | FC=1C=CC(=C(C1)C1(CCNCC1)O)OC | C12H16FNO2
